US04692442
A suspension of 2 g of poly-Hunig base in 8 ml of dioxan is stirred at room temperature for 30 minutes, a solution of 962 mg of 2-[(3S,4R)-4-acetylthio-3-phenoxyacetoxy-2-oxoazetidin-1-yl]-2-hydroxyacetic acid p-nitrobenzyl ester in 10 ml of dioxan is added, then a solution of 0.38 ml of thionyl chloride in 8 ml of dioxan is added slowly. The mixture is stirred for 2 hours at room temperature, the poly-H/e,uml/u/ nig base is filtered off and the filtrate is concentrated by evaporation in vacuo. The residue is purified by chromatography over silica gel with toluene/ethyl acetate (1:1) and yields the 2-[(3S,4R)-4-acetylthio-3-methoxy-2-oxoazetidin-1-yl]-2-chloroacetic acid p-nitrobenzyl ester in crude form.

reactant | 2-[(3S,4R)-4-acetylthio-3-phenoxyacetoxy-2-oxoazetidin-1-yl]-2-hydroxyacetic acid p-nitrobenzyl ester | 962 mg | [N+](=O)([O-])C1=CC=C(COC(C(O)N2C([C@@H]([C@H]2SC(C)=O)OC(COC2=CC=CC=C2)=O)=O)=O)C=C1 | C22H20N2O10S
reactant | thionyl chloride | 0.38 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dioxan | 8 ml | O1CCOCC1 | C4H8O2
solvent | dioxan | 10 ml | O1CCOCC1 | C4H8O2
solvent | dioxan | 8 ml | O1CCOCC1 | C4H8O2
product | 2-[(3S,4R)-4-acetylthio-3-methoxy-2-oxoazetidin-1-yl]-2-chloroacetic acid p-nitrobenzyl ester | [N+](=O)([O-])C1=CC=C(COC(C(Cl)N2C([C@@H]([C@H]2SC(C)=O)OC)=O)=O)C=C1 | C15H15ClN2O7S
